US08470820B2
A-14: 6-Ethyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid
6-Ethyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid ethyl ester (prepared according to US 2006/199960; 200 mg, 0.73 mmol) was dissolved in a THF/ethanol (12 ml/3 ml) mixture, cooled to 0° C. and treated with lithium hydroxide (2.2 ml, 1N aqueous solution). The reaction mixture was allowed to warm-up to ambient temperature and stirring was continued at that temperature for 2 hours. The pH value was subsequently adjusted to acidic and the reaction mixture was extracted with dichloromethane (3×40 ml). The combined organic phases were dried and evaporated to yield the product as light yellow solid (175 mg, 97%).

reactant | 6-Ethyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid ethyl ester | 0.73 mmol, 200 mg | C(C)OC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)CC | C14H16N4O2
reactant | lithium hydroxide | 1N, 2.2 ml | [OH-].[Li+]
solvent | THF ethanol | 12 ml | C1CCOC1.C(C)O
product | 6-Ethyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid | 175 mg, 97% | C(C)C1=CC=C(C(=N1)C(=O)O)NC=1C=NC=NC1 | C12H12N4O2
